US09227976B2
To a suspension of ethyl 2-[5-acetamido-4-(2-phenylethynyl)-3-(3-pyridyl)pyrazol-1-yl]acetate (410 mg, 1.1 mmol) in ethanol (10 mL) was added 25% NaOH aqueous solution (6.5 mL). The reaction mixture was stirred at 85° C. for 6 h. The reaction mixture was cooled down to room temperature and ethanol was evaporated in vacuo. The resulting aqueous suspension was filtered and the solid was washed with acetonitrile and dried, yielding 235 mg of 2-[5-amino-4-(2-phenylethynyl)-3-(3-pyridyl)pyrazol-1-yl]acetic acid.

reactant | ethyl 2-[5-acetamido-4-(2-phenylethynyl)-3-(3-pyridyl)pyrazol-1-yl]acetate | 1.1 mmol, 410 mg | C(C)(=O)NC1=C(C(=NN1CC(=O)OCC)C=1C=NC=CC1)C#CC1=CC=CC=C1 | C22H20N4O3
reactant | NaOH | 6.5 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[5-amino-4-(2-phenylethynyl)-3-(3-pyridyl)pyrazol-1-yl]acetic acid | 235 mg | NC1=C(C(=NN1CC(=O)O)C=1C=NC=CC1)C#CC1=CC=CC=C1 | C18H14N4O2
